US05108483
50 g (0.17 mol) of 5-fluoro-2-nitro-phenyl methylsulphonyloxyacetate are added in portions at 60° C. to a suspension of 5 g (0.89 mol) of iron powder in 450 ml of 5 per cent strength aqueous acetic acid. During this process, the temperature of the suspension rises to 90° C. The mixture is stirred for another 30 minutes at 90° C. and, after cooling, the undissolved components are filtered off. The filtration residue is suspended repeatedly in warm methanol and the suspension is filtered. After concentration, the combined methanol filtrates give 21.3 g (75% of theory) of 7-fluoro-3H-1,4-benzoxazin-2(4H)-one having a melting point of 199° C.

reactant | 5-fluoro-2-nitro-phenyl methylsulphonyloxyacetate | 0.17 mol, 50 g | CS(=O)(=O)OCC(=O)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C9H8FNO7S
catalyst | iron | 0.89 mol, 5 g | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-fluoro-3H-1,4-benzoxazin-2(4H)-one | 21.3 g, 75% | FC1=CC2=C(NCC(O2)=O)C=C1 | C8H6FNO2
